US07015236B2
4-Trifluoromethylnicotinic acid (Compound VIII)
5 ml of 35% concentrated hydrochloric acid (10 ml, 57 mmol) was added to 4-trifluoromethylnicotinamide (90 g, 10 mmol), and the mixture was heated under reflux for 5 hours. Water (50 ml) was added, and the mixture was adjusted to pH 3 using sodium carbonate, and then extracted with ethyl acetate twice. The organic layers were combined, dried over magnesium sulfate and then concentrated under reduced pressure to obtain 1.71 g (yield 89.7%) of the title compound.

reactant | hydrochloric acid | 57 mmol, 5 ml | Cl | ClH
reactant | 4-trifluoromethylnicotinamide | 10 mmol, 90 g | FC(C1=CC=NC=C1C(=O)N)(F)F | C7H5F3N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | 50 ml | O | H2O
product | 4-Trifluoromethylnicotinic acid | 1.71 g, yield 89.7% | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
